US03972880
B. 1,3-Dihydro-9-hydroxy-7-(3-methyl-2-octyl)-4-oxo-4H-thieno[2,3-c] [1]benzopyran
A solution of 20 g. (0.125 mole) of methyl-4-oxo-2,3,4,5-tetrahydrothiophene-3-carboxylate and 32 g. (0.135 mole of 5-(3-methyl-2-octyl)resorcinol in 200 ml. of absolute ethanol was cooled in an ice-salt bath and saturated with anhydrous hydrogen chloride. The reaction mixture was allowed to stand at room temperature for 72 hours and the solid which formed was removed by filtration. Recrystallization from ethanol gave 16 g. (37%) m.p. 165°-166°C. The structure was confirmed by infrared and nuclear magnetic resonance spectra.

reactant | methyl-4-oxo-2,3,4,5-tetrahydrothiophene-3-carboxylate | 0.125 mole | COC(=O)C1CSCC1=O | C6H8O3S
reactant | 5-(3-methyl-2-octyl)resorcinol | 0.135 mole | CC(C(C)C=1C=C(C=C(O)C1)O)CCCCC | C15H24O2
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 1,3-Dihydro-9-hydroxy-7-(3-methyl-2-octyl)-4-oxo-4H-thieno[2,3-c] [1]benzopyran | OC1=CC(=CC2=C1C1=C(C(O2)=O)SCC1)C(C)C(CCCCC)C | C20H26O3S
